US04812462
A solution of 10.8 g methanesulfonic anhydride in 120 mL dichloromethane is chilled to -50° C. and treated dropwise with a solution of 9.4 g 3-methyl-4-methoxybenzyl alcohol, 10.8 mL diisopropylethylamine and 80 mL dichloromethane. The resulting solution is warmed to -25° C. over 30 min and treated dropwise with 20.0 g N,1-bis-BOC-histidine methyl ester dissolved in 125 mL dichloromethane. The mixture is then allowed to warm to 25° C. over 4 hr, stirring at this temperature 24 hr. The reaction mixture is poured into 700 mL 0.25M, pH=7 potassium phosphate buffer and the organic layer is separated, dried and evaporated. Chromatography on silica gel, eluting with chloroformmethanol (99:1) gives 3-(3-methyl-4-methoxyphenyl)methyl-N-BOC-histidine methyl ester as a gum. NMR (CDCl3) 1.43 (s,9H,t-Bu).

reactant | methanesulfonic anhydride | 10.8 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 3-methyl-4-methoxybenzyl alcohol | 9.4 g | CC=1C=C(CO)C=CC1OC | C9H12O2
reactant | diisopropylethylamine | 10.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N,1-bis-BOC-histidine methyl ester | 20.0 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CN(C=N1)C(=O)OC(C)(C)C)=O | C17H27N3O6
reactant | potassium phosphate | 0.25M, 700 mL, pH=7 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 3-(3-methyl-4-methoxyphenyl)methyl-N-BOC-histidine methyl ester | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CN=CN1CC1=CC(=C(C=C1)OC)C)=O | C21H29N3O5
